US07977489B2
A. Preparation of intermediate 1-[4-(2,4-Bis-trifluoromethyl-benzyloxy)-3-methoxy-phenyl]-ethanone
To a N2 purged flask was added 2,4-bis-trifluoromethyl benzyl bromide (2.21 g, 7.20 mmol), acetovanillone (1.32 g, 7.92 mmol), and DMF (15 mL). To the reaction solution was added fine mesh K2CO3 (3 equiv, 21.6 mmol). The reaction was allowed to stir at 70° C. for 1 h, then at 60° C. for 14 h. The reaction solution was then diluted with EtOAc (150 mL), filtered through a Buchner funnel, washed with sat'd NH4Cl (70 mL×2) washed with sat NaCl (50 mL), dried over Na2SO4, and then filtered and concentrated in vacuo to provide a crude product (2.8 g, 99% yield).

reactant | 2,4-bis-trifluoromethyl benzyl bromide | 7.20 mmol, 2.21 g | FC(C1=C(CBr)C=CC(=C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | acetovanillone | 7.92 mmol, 1.32 g | CC(=O)C1=CC(OC)=C(O)C=C1 | C9H10O3
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 21.6 mmol, 3 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 1-[4-(2,4-Bis-trifluoromethyl-benzyloxy)-3-methoxy-phenyl]-ethanone | 2.8 g, 99% yield | FC(C1=C(COC2=C(C=C(C=C2)C(C)=O)OC)C=CC(=C1)C(F)(F)F)(F)F | C18H14F6O3
